US07968587B2
(S)-[4-(2-Amino-pyridin-3-ylmethyl)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester
Combine crude (S)-{7-cyano-4-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyridin-3-ylmethyl]-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl}-carbamic acid isopropyl ester (2.12 mmol, 1100 mg crude material) in a mixture of THF (22 mL) and ethanol (4 mL) and stir for 15 min. Add hydrazine hydrate 0.5 mL, 10 mmol) and stir the mixture at room temperature for 18 h. Vacuum filter the crude reaction and wash the solid with THF (50 mL). Collect the filtrate and remove the solvent under vacuum. Purify the resulting residue by silica gel chromatography (50-100% ethyl acetate/CH2Cl2) to provide 110 mg (13%) of the title compound. MS (m/z): 390 (M+1).

reactant | (S)-{7-cyano-4-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyridin-3-ylmethyl]-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl}-carbamic acid isopropyl ester | 2.12 mmol, 1100 mg | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC=2C(=NC=CC2)N2C(C3=CC=CC=C3C2=O)=O)C1)=O | C30H25N5O4
reactant | hydrazine hydrate | 10 mmol, 0.5 mL | O.NN
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (S)-[4-(2-Amino-pyridin-3-ylmethyl)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester | 110 mg, 13% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC=2C(=NC=CC2)N)C1)=O | C22H23N5O2
